US07560558B2
(4,5-Dimethylfuran-2-yl)-(2-pyridyl)-methanone (1.6 g), methanol (15 ml), and a 28% aqueous ammonia solution (15 ml) were placed in a sealed tube, and the mixture was stirred at 160° C. overnight. The reaction solution was cooled to room temperature, the solvent was then removed by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-ethyl acetate to give 5,6-dimethyl-[2,2′]-bipyridin-3-ol (1.2 g, yield 75%).

reactant | (4,5-Dimethylfuran-2-yl)-(2-pyridyl)-methanone | 1.6 g | CC=1C=C(OC1C)C(=O)C1=NC=CC=C1 | C12H11NO2
reactant | ammonia | 15 ml | N | H3N
solvent | methanol | 15 ml | CO | CH4O
product | 5,6-dimethyl-[2,2′]-bipyridin-3-ol | 1.2 g, yield 75% | CC=1C=C(C(=NC1C)C1=NC=CC=C1)O | C12H12N2O
